US08017611B2
3-(6-Fluoro-1,3-benzoxazol-2-yl)pyrazin-2-amine (300 mg) was dissolved into DMF (15 ml) at 50° C. N-bromosuccimide (325 mg) was added. The mixture was stirred at 40° C. for 2 hours. The resulting mixture was diluted with ethyl acetate (15 ml), and washed with brine (10 ml×3). The organic layer was dried and concentrated to give 5-bromo-3-(6-fluoro-1,3-benzoxazol-2-yl)pyrazin-2-amine, which was used in the next reaction without further purification.

reactant | 3-(6-Fluoro-1,3-benzoxazol-2-yl)pyrazin-2-amine | 300 mg | FC1=CC2=C(N=C(O2)C=2C(=NC=CN2)N)C=C1 | C11H7FN4O
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
reactant | N-bromosuccimide | 325 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | 5-bromo-3-(6-fluoro-1,3-benzoxazol-2-yl)pyrazin-2-amine | BrC=1N=C(C(=NC1)N)C=1OC2=C(N1)C=CC(=C2)F | C11H6BrFN4O
